US07196104B2
Preparation BR: 3-(3-Nitrophenyl)pyridine
To a 1-iodo-3-nitrobenzene (1.0 g, 4.01 mmol) in dry DME (20 mL) was added pyridine-3-boronic acid (641 mg, 5.22 mmol), PdCl2dppf (327 mg, 0.40 mmol), and 2M Na2CO3 (3.0 mL) The resulting mixture was heated to reflux under N2 for 15 h. Solvent was separated from inorganic solid by filtration. The solvent was removed and the residue was extracted with CHCl3. The organic layer was washed with water, brine, and dried over MgSO4. The solvent was removed to give dark brown solid which was purified by chromatography on silica gel. Elution with Hexane:acetone mixture (80:20) gave the final compound as a tan solid. MS m/z: 201.3 (M+H). Calc'd. for C11H8N2O2-200.23.

reactant | 1-iodo-3-nitrobenzene | 4.01 mmol, 1.0 g | IC1=CC(=CC=C1)[N+](=O)[O-] | C6H4INO2
reactant | pyridine-3-boronic acid | 5.22 mmol, 641 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 2M, 3.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 20 mL | COCCOC | C4H10O2
product | 3-(3-Nitrophenyl)pyridine | [N+](=O)([O-])C=1C=C(C=CC1)C=1C=NC=CC1 | C11H8N2O2
